US04332784
(i) Preparation of N-trifluoroacetyl thyroxine
Thyroxine (240.6 mg; 0.310 mmoles) was suspended in trifluoroacetic anhydride (3 ml) and the mixture stirred under reflux for 4 hours. The trifluoroacetic anhydride was removed by evaporation in vacuo and the residue was dissolved in methanol (ca. 5 ml). On addition of water (20 ml) to the methanolic solution a precipitate formed, which was separated by centrifugation, washed with water (3×20 ml), and then dried in vacuo. Yield of N-trifluoroacetyl thyroxine, ca. 200 mg.

reactant | Thyroxine | 0.310 mmoles, 240.6 mg | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
reactant | trifluoroacetic anhydride | 3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-trifluoroacetyl thyroxine | FC(C(=O)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O)(F)F | C17H10F3I4NO5
